US08349880B2
Step N (1): Followed the method of R. Roy et. al Tetrahedron 2007, 63, 4912. To a solution of N-(2-methoxy-4-nitrophenyl)formamide (4.0 g, 28 mmol, U. Mario et. al General Pharmacology, 1979, 10, 309) and N-formylglycine ethyl ester (16.6 g, 153 mmol) in dichloromethane (20 mL) were added triethylamine (28 mL, 72 mmol) and POCl3 (8.0 mL, 200 mmol) dropwise at 0° C. The reaction was stirred at 0° C. for 2 h. The mixture was filtered over silica using dichloromethane/diethyl ether (4/1) and concentrated under reduced pressure. The crude residue was dissolved in THF (100 mL) to which Cu2O (400 mg, 2.8 mmol) and L-proline (644 mg, 5.6 mmol) were added and the resulting solution stirred at rt for 4 h. A solution of aq EDTA (5%) was added to the reaction mixture, which was then extracted with EtOAc. The crude residue was purified using silica gel column chromatography (EtOAc/dichloromethane) to afford ethyl 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carboxylate (2.0 g, 24% yield).

reactant | N-(2-methoxy-4-nitrophenyl)formamide | 28 mmol, 4.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])NC=O | C8H8N2O4
reactant | N-formylglycine ethyl ester | 153 mmol, 16.6 g | C(C)OC(CNC=O)=O | C5H9NO3
reactant | triethylamine | 72 mmol, 28 mL | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 200 mmol, 8.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | L-proline | 5.6 mmol, 644 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 1-(2-methoxy-4-nitrophenyl)-1H-imidazole-4-carboxylate | 2.0 g, 24% yield | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C(=O)OCC | C13H13N3O5
